US04783471
Alpha-phenyl-1-(2-phenylethyl)-4-piperidinemethanol
A mixture of alpha-phenyl-4-piperidinemethanol (1.5 g, 7.8 mmol), 2-bromoethyl benzene (1.1 ml, 8.0 mmol) and potassium carbonate (1.1 g, 8.0 mmol) in dry DMF (20 ml) was heated at 80° C. over the weekend (60 h). The excess DMF was distilled off at reduced pressure and the residue was dissolved in ethyl acetate. The organic phase was washed with H2O (3×100 ml), saturated aqueous NaCl (1×100 ml), dried (MgSO4), filtered and evaporated to give a pale yellow oil which eventually crystallized. After recrystallization from ethyl acetate-hexane, a white crystalline solid was obtained, mp 125°-128° C.

reactant | alpha-phenyl-4-piperidinemethanol | 7.8 mmol, 1.5 g | C1(=CC=CC=C1)C(O)C1CCNCC1 | C12H17NO
reactant | 2-bromoethyl benzene | 8.0 mmol, 1.1 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 8.0 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Alpha-phenyl-1-(2-phenylethyl)-4-piperidinemethanol | C1(=CC=CC=C1)C(O)C1CCN(CC1)CCC1=CC=CC=C1 | C20H25NO
